US07452899B2
5-(4-fluorophenyl)-1-methyl-1H-pyrazol-3-carboxaldehyde dimethyl acetal
To a solution of lithium diisopropylamide (1.8M in THF, 160 mL, 0.29 mol) at −78° C. was added 4-fluoroacetophenone (17.6 mL, 0.145 mol) in THF (150 mL), dropwise. The reaction was stirred at −78° C. for 1 h before the addition of methyl dimethoxyacetate (17.7 mL, 0.145 mol) in THF (150 mL). The reaction was warmed to 25° C. and stirred for 16 h. The solvent was removed in vacuo and the residue taken up in EtOH (250 mL), acetic acid (17 mL, 0.3 mol) added, followed by methyl hydrazine (8 mL) and the reaction heated to reflux for 2 h. The ethanol was removed in vacuo and the residue extracted with dichloromethane (×3), the organic layer washed with brine, dried over MgSO4 and concentrated. The residue was chromatographed on silica eluting with 50% ethyl acetate/hexanes to give the title compound (more polar isomer) along with its isomer (less polar). 9 g 1H NMR (360, CDCl3) δ 7.38 (m, 2H), 7.14 (m, 2H), 6.34 (s, 1H), 5.48 (s, 1H), 3.85 (s, 3H), 3.43 (s, 6H).

reactant | lithium diisopropylamide | 0.29 mol, 1.8M, 160 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-fluoroacetophenone | 0.145 mol, 17.6 mL | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | methyl dimethoxyacetate | 0.145 mol, 17.7 mL | COC(C(=O)OC)OC | C5H10O4
reactant | acetic acid | 0.3 mol, 17 mL | C(C)(=O)O | C2H4O2
reactant | methyl hydrazine | 8 mL | CNN | CH6N2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-(4-fluorophenyl)-1-methyl-1H-pyrazol-3-carboxaldehyde dimethyl acetal | COC(C1=NN(C(=C1)C1=CC=C(C=C1)F)C)OC | C13H15FN2O2
